US07288541B2
A mixture of 4.11 g (19.4 mmol) of 3-[4-(trifluoromethyl)phenyl]-1H-pyrazole, 2.0 g (19.9 mmol) of (S)-3,3-dimethyl-1,2-epoxybutane, 3.1 mL (22.3 mmol) of triethylamine, and 10 mL of isopropyl alcohol was placed in a sealed tube and heated at 85° C. for 48 h. Solvent was evaporated and the residue was purified by silica gel chromatography eluting with ethyl acetate:hexanes (1:7) to give 2.92 g (49%) of (2S)-3,3-dimethyl-1-{3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}-2-butanol as a pale yellow solid and 0.4 g (7%) of its isomer (2S)-3,3-dimethyl-1-{5-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}-2-butanol. Data for (2S)-3,3-dimethyl-1-{3-[4-(tifluoromethyl)phenyl]-1H-pyrazol-1-yl}-2-butanol: 1H-NMR (DMSO-d6): δ 7.96 (d, J 8 Hz, 2H), 7.75 (s, 1H), 7.69 (d, J=8 Hz, 2H), 6.76 (d, J=2 Hz, 1H), 4.86 (d, J=6 Hz, 1H), 4.26 (dd, J=14 Hz, J=2 Hz, 1H), 3.88 (dd, J=14 Hz, J=10 Hz, 1H), 3.45–3.50 (m, 1H), 0.88 (s, 9H); ES-LCMS m/z 313 (M+H). Data for (2S)-3,3-dimethyl-1-{5-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}-2-butanol: 1H-NMR (DMSO-d6): δ 7.87 (d, J=8 Hz, 2H), 7.80 (d, J=8 Hz, 2H), 7.52 (d, J=2 Hz, 1H), 6.42 (d, J=2 Hz, 1H), 5.01 (d, J=6 Hz, 1H), 4.10 (dd, J=14 Hz, J=2 Hz, 1H), 3.92 (dd, J=14 Hz, J=10 Hz, 1H), 3.62–3.67 (m, 1H), 0.82 (s, 9H); ES-LCMS m/z 313 (M+H).

reactant | 3-[4-(trifluoromethyl)phenyl]-1H-pyrazole | 19.4 mmol, 4.11 g | FC(C1=CC=C(C=C1)C1=NNC=C1)(F)F | C10H7F3N2
reactant | (S)-3,3-dimethyl-1,2-epoxybutane | 19.9 mmol, 2.0 g | CC([C@H]1CO1)(C)C | C6H12O
reactant | triethylamine | 22.3 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
solvent | isopropyl alcohol | 10 mL | C(C)(C)O | C3H8O
product | (2S)-3,3-dimethyl-1-{3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}-2-butanol | 2.92 g, 49% | CC([C@@H](CN1N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)O)(C)C | C16H19F3N2O
